US05510345
Preparation of 4-chloro-2-(1-piperazinyl)-6-pyrrolidinopyrimidine
A solution containing 2.0 g (9.17 mmoles) of 2,4-dichloro-6-pyrrolidinopyrimidine and 3.95 (45.9 mmoles) of piperazine in ethanol is boiled under reflux for 1 hour and then evaporated. The evaporation residue is distributed between 100 ml of chloroform and 100 ml of 1% sodium hydroxide solution. After separation the organic phase is washed twice with 50 ml of water each, then dried and evaporated. The evaporation residue is subjected to chromatography on a silica gel column. By using a 9:1 mixture of chloroform/methanol as eluent and recrystallizing the obtained product from hexane, the title compound is obtained in a yield of 1.66 g (67.6%), m.p.: 77°-92° C.

reactant | 2,4-dichloro-6-pyrrolidinopyrimidine | 9.17 mmoles, 2.0 g | ClC1=NC(=CC(=N1)Cl)N1CCCC1 | C8H9Cl2N3
reactant | piperazine | N1CCNCC1 | C4H10N2
solvent | ethanol | C(C)O | C2H6O
product | 4-chloro-2-(1-piperazinyl)-6-pyrrolidinopyrimidine | ClC1=NC(=NC(=C1)N1CCCC1)N1CCNCC1 | C12H18ClN5
